US05153210
A solution of 4-hydroxyphenyl propan-2-one, ethylene ketal (5.26 g) in methanol at room temperature, was treated with sodium (0.66 g) and allowed to stir for 10 minutes. The resulting solution was then added dropwise over 15 minutes to a solution of 1,10-dibromodecane (9.0 g) in methanol under reflux and the reaction mixture heated for 3 h. The mixture was allowed to cool and the solvent was removed in vacuo. The residue was partitioned between diethylether and water, the organic layer separated, dried (magnesium sulphate), and the solvent removed in vacuo to give an oil which was chromatographed on silica. Elution with chloroform gave 10-(4-acetonylphenoxy)decyl bromide, ethylene ketal (3.0 g) as an oil.

reactant | 4-hydroxyphenyl propan-2-one | OC1=CC=C(C=C1)CC(C)=O | C9H10O2
reactant | sodium | 0.66 g | [Na] | Na
reactant | 1,10-dibromodecane | 9.0 g | BrCCCCCCCCCCBr | C10H20Br2
solvent | methanol | CO | CH4O
product | 10-(4-acetonylphenoxy)decyl bromide | C(C(=O)C)C1=CC=C(OCCCCCCCCCCBr)C=C1 | C19H29BrO2
